US06576627B1
The benzyl (S)-6-(benzyloxycarbonylamino)-2-((2-methyl-1-(3-phenylpropanoylamino)propyl)phosphinoyloxy)hexanoate (117 mg) obtained in the above step (b) was dissolved in a mixed solvent of dioxane (4.5 ml) and water (1.5 ml) and added with sodium periodate (40.4 mg), and then the mixture was stirred at room temperature for 15 hours. The organic substances were extracted with ethyl acetate, and the extract was washed with saturated aqueous sodium thiosulfate and saturated brine, successively, and dried over anhydrous magnesium sulfate. Then the solvent was evaporated to obtain benzyl (S)-6-(benzyloxycarbonylamino)-2-((2-methyl-1-(3-phenylpropanoylamino)propyl)(hydroxyphosphinoyl)oxy)hexanoate (100.8 mg, 84%). This compound was subjected to the measurement of molecular weight and then used in the following reaction without further purification.

reactant | benzyl (S)-6-(benzyloxycarbonylamino)-2-((2-methyl-1-(3-phenylpropanoylamino)propyl)phosphinoyloxy)hexanoate | 117 mg | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(=O)OCC1=CC=CC=C1)OP(=O)C(C(C)C)NC(CCC1=CC=CC=C1)=O | C34H43N2O7P
reactant | sodium periodate | 40.4 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | dioxane | 4.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 1.5 ml | O | H2O
product | benzyl (S)-6-(benzyloxycarbonylamino)-2-((2-methyl-1-(3-phenylpropanoylamino)propyl)(hydroxyphosphinoyl)oxy)hexanoate | 100.8 mg, 84% | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(=O)OCC1=CC=CC=C1)OP(=O)(O)C(C(C)C)NC(CCC1=CC=CC=C1)=O | C34H43N2O8P
